US06194487B1
Next, in the mixing section 22, the mixed vapor atmosphere of 2-mercaptoethanol and triethanolamine was cooled, and the introduced base particles were exposed thereto for 10 minutes. Consequently, a polymerization reaction using triethanolamine as a catalyst took place on the surface of the base particles between 1,4-benzenedisulfonyl chloride and 2-mercaptoethanol, forming a film of 1,4-benzenedisulfonylchloride-2-mercaptoethanol co-polymer.

reactant | 2-mercaptoethanol | SCCO | C2H6OS
reactant | triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
reactant | 1,4-benzenedisulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)S(=O)(=O)Cl | C6H4Cl2O4S2
catalyst | triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
product | 1,4-benzenedisulfonylchloride 2-mercaptoethanol | C1(=CC=C(C=C1)S(=O)(=O)Cl)S(=O)(=O)Cl.SCCO | InChI=1S/C6H4Cl2O4S2.C2H6OS/c7-13(9,10)5-1-2-6(4-3-5)14(8,11)12;3-1-2-4/h1-4H;3-4H,1-2H2
